US04603012
N-Boc-2-amino-4-(2,2,5,5-tetramethyl-1-cyclopentyl)-3-butene is dissolved in trifluoroacetic acid and the solution is stirred overnight. Water is added and the mixture is made basic with 20% KOH. The mixture is extracted with ether, and the organic layer is dried over Na2SO4 and evaporated to yield 2-amino-4-(2,2,5,5-tetramethyl-1-cyclopentyl)-3-butene.

reactant | N-Boc-2-amino-4-(2,2,5,5-tetramethyl-1-cyclopentyl)-3-butene | C(=O)(OC(C)(C)C)NC(C)C=CC1C(CCC1(C)C)(C)C | C18H33NO2
reactant | Water | O | H2O
reactant | KOH | [OH-].[K+]
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-amino-4-(2,2,5,5-tetramethyl-1-cyclopentyl)-3-butene | NC(C)C=CC1C(CCC1(C)C)(C)C | C13H25N
